US07071175B1
To a solution of NaH (80%, 0.17 g, 4.00 mmol) in THF (5 mL) at 0° C. under argon was added diethyl malonate (0.64 g, 4.00 mmol). After the mixture was stirred for 15 min the mixture was added to a refluxed mixture of (4-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (1.00 g, 3.48 mmol) in THF (10 mL), and the mixture was refluxed for 2 h. The mixture was concentrated under reduced pressure and the residue was partitioned between water and chloroform. The organic layer was washed with water and brine and dried. After filtration and evaporation of the solvent, the crude product was purified by flash chromatography (MeOH/CH2Cl2, 1:100) to give 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid diethyl ester (0.80 g, 55%).

reactant | NaH | 4.00 mmol, 0.17 g | [H-].[Na+]
reactant | diethyl malonate | 4.00 mmol, 0.64 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | (4-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 3.48 mmol, 1.00 g | C(C)(C)(C)OC(NC1=NC=CC(=C1)CBr)=O | C11H15BrN2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-tert-butoxycarbonylamino-pyridin4-ylmethyl)-malonic acid diethyl ester | 0.80 g, 55% | C(C)OC(C(C(=O)OCC)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C18H26N2O6
